US04439606
1-(p-Chlorophenyl)-4-phenylacetylpiperazine
To a cold solution of 8.09 g. of p-chlorophenyl piperazine dihydrochloride and 40 ml. of 10% sodium hydroxide in 60 ml. of water was added dropwise with stirring, 4.64 g. of phenylacetyl chloride. The mixture was stirred for one hour, then neutralized with 2 N hydrochloric acid. The solid was collected and recrystallized from ethanol-water, giving 4.2 g. of the desired product, m.p. 93°-94° C.

reactant | p-chlorophenyl piperazine dihydrochloride | Cl.Cl.ClN1CCN(CC1)C1=CC=CC=C1
reactant | sodium hydroxide | [OH-].[Na+]
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | water | O | H2O
product | 1-(p-Chlorophenyl)-4-phenylacetylpiperazine | ClC1=CC=C(C=C1)N1CCN(CC1)C(CC1=CC=CC=C1)=O | C18H19ClN2O
